US07217708B2
(a) 3-Benzyl-9-oxa-3,7-diazabicyclo[3.3.1]nonane
All volumes and equivalents are measured with respect to the amount of 3-benzyl-9-oxa-3,7-diazabicyclo[3.3.1]nonane dihydrochloride (see Preparation A(vi) above) used. Toluene (420 mL, 7 vols) and aqueous sodium hydroxide solution (2 M, 420 mL, 7 vols, 4.0 eq) were added to 3-benzyl-9-oxa-3,7-diazabicyclo[3.3.1]nonane dihydrochloride (60.07 g, 206.03 mmole, 1.0 eq., see Preparation A(vi) above). The mixture was stirred under nitrogen, heated to 60° C. and held at this temperature for 30 minutes by which time two clear layers had formed. The lower, aqueous layer was removed, and the toluene solution of sub-title compound (free base) was azeodried at atmospheric pressure (total volume of solvent removed=430 mL; total volume of toluene added=430 mL), then concentrated to a volume of 240 mL (4 vols). Karl Fischer analysis at this stage showed 0.06% water in the solution. The dried solution of sub-title compound (theoretically 44.98 g, 206.03 mmole, 1.0 eq) was used as such in a subsequent step.

reactant | 3-benzyl-9-oxa-3,7-diazabicyclo[3.3.1]nonane dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)N1CC2CNCC(C1)O2
reactant | sodium hydroxide | 2 M, 420 mL, 4.0 eq | [OH-].[Na+]
reactant | 3-benzyl-9-oxa-3,7-diazabicyclo[3.3.1]nonane dihydrochloride | 206.03 mmole, 60.07 g, 1.0 eq. | Cl.Cl.C(C1=CC=CC=C1)N1CC2CNCC(C1)O2
solvent | Toluene | 420 mL | C1(=CC=CC=C1)C | C7H8
product | 3-Benzyl-9-oxa-3,7-diazabicyclo[3.3.1]nonane | C(C1=CC=CC=C1)N1CC2CNCC(C1)O2 | C13H18N2O
